US06017929
Dissolved in 20 ml of methanol were 500 mg of 3-(1-oxo-2-indanacetyl)-4-(R)-(1-pyrrolidinecarbonyl) thiazolidine, and 80 mg of NaBH4 were added to the solution. After stirring the mixture at room temperature, the resultant liquid reaction mixture was concentrated under reduced pressure, and the residue was added with water and extracted with chloroform. After the extract was dried over anhydrous magnesium sulfate, chloroform was distilled off under reduced pressure to obtain 545 mg of 3-(1-hydroxy-2-indanacetyl)-4-(R)-(1-pyrrolidinecarbonyl)thiazolidine. Thereafter, the process was allowed to progress in accordance with the process of Synthetic Example 1, thereby obtaining the title compound as a diastereomeric mixture. Yield: 87% (amorphous).

reactant | 3-(1-oxo-2-indanacetyl)-4-(R)-(1-pyrrolidinecarbonyl) thiazolidine | 500 mg | O=C1C(CC2=CC=CC=C12)CC(=O)N1CSC[C@H]1C(=O)N1CCCC1 | C19H22N2O3S
reactant | NaBH4 | 80 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-(1-hydroxy-2-indanacetyl)-4-(R)-(1-pyrrolidinecarbonyl)thiazolidine | 545 mg | OC1C(CC2=CC=CC=C12)CC(=O)N1CSC[C@H]1C(=O)N1CCCC1 | C19H24N2O3S
